US04442115
A mixture of 2-benzyloxy-3-methoxy-5-methylaniline (2.6 g), potassium 1-benzyl-1H-tetrazole-5-carboxylate (2.5 g) and dicyclohexylcarbodiimide (2.1 g) in dry pyridine (100 ml) was stirred at room temperature overnight. The mixture was then poured into a mixture of ice (250 g) and concentrated hydrochloric acid (100 ml), and the mixture was allowed to stand for 1 hour. The precipitate was filtered off and recrystallised from ethanol to give 1-benzyl-2'-benzyloxy-3'-methoxy-5'-methyl-1H-tetrazole-5-carboxanilide (0.16 g), m.p. 181°-183° C.

reactant | 2-benzyloxy-3-methoxy-5-methylaniline | 2.6 g | C(C1=CC=CC=C1)OC1=C(N)C=C(C=C1OC)C | C15H17NO2
reactant | potassium 1-benzyl-1H-tetrazole-5-carboxylate | 2.5 g | C(C1=CC=CC=C1)N1N=NN=C1C(=O)[O-].[K+]
reactant | dicyclohexylcarbodiimide | 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 1-benzyl-2'-benzyloxy-3'-methoxy-5'-methyl-1H-tetrazole-5-carboxanilide | 0.16 g | C(C1=CC=CC=C1)N1N=NN=C1C(=O)NC1=C(C(=CC(=C1)C)OC)OCC1=CC=CC=C1 | C24H23N5O3
